US06825172B2
Preparation of 3-(pyrimidin-5-yl)-propenal
The title compound was prepared by a procedure analogous to Reference Example 13 by substituting ethyl 3-(5-pyridiminyl)acrylate (prepared as described in WO0066566) for the ethyl 3-(2-cyclopropylpyrimidin-5-yl)acrylate of Reference Example 13. MS 135 (M+H)+.

reactant | ethyl 3-(5-pyridiminyl)acrylate | N=1C=CCC(C1)=NC=CC(=O)OCC | C10H12N2O2
reactant | ethyl 3-(2-cyclopropylpyrimidin-5-yl)acrylate | C1(CC1)C1=NC=C(C=N1)C=CC(=O)OCC | C12H14N2O2
product | 3-(pyrimidin-5-yl)-propenal | N1=CN=CC(=C1)C=CC=O | C7H6N2O
